US04594197
To a solution of 3.52 g of 3-benzoylacrylic acid in 30 ml of dimethylformamide were added 8 ml of isopropylbromide, 5.5 g of potassium carbonate and a catalystic amount of sodium iodide. The mixture was stirred at room temperature for 4 hours and allowed to stand overnight. To the reaction solution was added water, the mixture was extracted with diethyl ether, and the diethyl ether layer was washed with water and dried over magnesium sulfate. The diethyl ether was removed from the solution by evaporation, and the residue was purified by silica gel column chromatography using a mixture of hexane and diethyl ether as an eluent to give 2.27 g of isopropyl 3-benzoylacrylate as an oil.

reactant | 3-benzoylacrylic acid | 3.52 g | C(C1=CC=CC=C1)(=O)C=CC(=O)O | C10H8O3
reactant | isopropylbromide | 8 ml | C(C)(C)Br | C3H7Br
reactant | potassium carbonate | 5.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | [I-].[Na+]
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | isopropyl 3-benzoylacrylate | 2.27 g | C(C1=CC=CC=C1)(=O)C=CC(=O)OC(C)C | C13H14O3
